US07807709B2
a. 3-(2-Ethoxy-ethoxy)-4-methoxy-benzoic acid ethyl ester
A mixture of 3-hydroxy-4-methoxy-benzoic acid ethyl ester (1.60 g, 8.16 mmol), 2-bromoethyl ethyl ether (1.38 mL, 12.2 mmol) and anhydrous K2CO3 (1.69 g, 12.2 mmol) in MeCN (35 mL) is refluxed overnight. In order to complete the reaction, an additional aliquot of 2-bromoethyl ethyl ether (1.38 mL, 12.2 mmol) and a catalytic amount of NaI are added, and reflux is continued overnight. After cooling, the mixture is filtered and the filtrates are concentrated. The residue is taken up in CH2Cl2, the organic layer is washed with 0.5M NaOH and water, dried (Na2SO4) and concentrated. The title compound is obtained after flash chromatography (hexane/AcOEt 8:2) as colorless oil. MS: 269.0 [M+H]+. tR (HPLC, Nucleosil C18HD column, 5-100% CH3CN/H2O/6 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 1 mL/min): 4.92 min. 1H-NMR (CDCl3): δ 1.27 (m, 3H), 1.41 (m, 3H), 3.64 (m, 2H), 3.87 (m, 2H), 3.94 (s, 3H), 4.26 (m, 2H), 4.38 (m, 2H), 9.91 (dd, 1H), 7.63 (d, 1H), 7.72 (dd, 1H) ppm.

reactant | 3-hydroxy-4-methoxy-benzoic acid ethyl ester | 8.16 mmol, 1.60 g | C(C)OC(C1=CC(=C(C=C1)OC)O)=O | C10H12O4
reactant | 2-bromoethyl ethyl ether | 12.2 mmol, 1.38 mL | C(C)OCCBr | C4H9BrO
reactant | K2CO3 | 12.2 mmol, 1.69 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromoethyl ethyl ether | 12.2 mmol, 1.38 mL | C(C)OCCBr | C4H9BrO
reactant | NaI | [Na+].[I-]
solvent | MeCN | 35 mL | CC#N | C2H3N
product | 3-(2-Ethoxy-ethoxy)-4-methoxy-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)OC)OCCOCC)=O | C14H20O5
